US08563547B2
2-(4-(4-(trifluoromethoxy)benzyl)piperidin-1-yl-N—((S)-6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)-acetamide
Similar to the manipulation of example 1, with (S)-2-chloro-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide (130 mg, 0.50 mmol) and 4-(4-(trifluoromethoxy)benzyl)piperidine (259 mg, 1.0 mmol) as crude materials, 150 mg title compound was generated and yield was 62%.

reactant | (S)-2-chloro-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide | 0.50 mmol, 130 mg | ClCC(=O)N[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-] | C8H9ClN4O4
reactant | 4-(4-(trifluoromethoxy)benzyl)piperidine | 1.0 mmol, 259 mg | FC(OC1=CC=C(CC2CCNCC2)C=C1)(F)F | C13H16F3NO
product | 4-(4-(trifluoromethoxy)benzyl)piperidin-1-yl-N—((S)-6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)-acetamide | 150 mg, yield was 62% | FC(OC1=CC=C(CC2CCN(CC2)CC(=O)N[C@H]2CN3C(OC2)=NC(=C3)[N+](=O)[O-])C=C1)(F)F | C21H24F3N5O5
